US04647301
A solution of 6-difluoromethoxy-2-[(1-carbamoyl-1,2-dimethylpropyl)-carbamoyl]-3-quinolinecarboxylic acid (0.0152 mol) in 50 mL water containing 0.06 mol sodium hydroxide is heated at 75°-80° C. for two hours. The solution is cooled to 5° C. and acidified with concentrated HCl. The precipitate is removed by filtration, washed with water and air-dried to give 6-difluoromethoxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3-quinolinecarboxylic acid, mp 208°-209° C.

reactant | 6-difluoromethoxy-2-[(1-carbamoyl-1,2-dimethylpropyl)-carbamoyl]-3-quinolinecarboxylic acid | 0.0152 mol | FC(OC=1C=C2C=C(C(=NC2=CC1)C(NC(C(C)C)(C)C(N)=O)=O)C(=O)O)F | C18H19F2N3O5
reactant | water | 0.06 mol, 50 mL | O | H2O
reactant | HCl | Cl | ClH
product | 6-difluoromethoxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-3-quinolinecarboxylic acid | FC(OC=1C=C2C=C(C(=NC2=CC1)C=1NC(C(N1)(C)C(C)C)=O)C(=O)O)F | C18H17F2N3O4
